US08864894B2
2.0 g of tetrahydrothiophene and 18 g of ethyl acetate were charged into a 100 mL flask to be dissolved. While stirring the resultant mixed solution with a magnetic stirrer, to the mixed solution, a solution in which 9.9 g of trimethoxysilylpropyl iodide was dissolved in 24 g of ethyl acetate was gradually added at room temperature in a nitrogen atmosphere. The reaction mixture was refluxed over 3 days and therefrom, ethyl acetate was distilled off under reduced pressure. The resultant concentrate was dropped into 100 mL of diethyl ether and therefrom, tetrahydrothiophene and trimethoxysilylpropyl iodide as by-products were removed. This purification was repeated three times and then remaining diethyl ether was distilled off under reduced pressure, followed by dissolving the resultant concentrate in methanol to obtain a 30% methanol solution of trimethoxysilylpropyltetrahydrothiophene iodide.

reactant | tetrahydrothiophene | 2.0 g | S1CCCC1 | C4H8S
reactant | trimethoxysilylpropyl iodide | 9.9 g | CO[Si](OC)(OC)CCCI | C6H15IO3Si
solvent | ethyl acetate | 24 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 18 g | C(C)(=O)OCC | C4H8O2
product | trimethoxysilylpropyltetrahydrothiophene iodide | [I-].CO[Si](OC)(OC)CCCC1SCCC1 | InChI=1S/C10H22O3SSi.HI/c1-11-15(12-2,13-3)9-5-7-10-6-4-8-14-10;/h10H,4-9H2,1-3H3;1H/p-1
